US04910218
Using the procedure outlined in Example 34A except that dimethyl sulfate was used as the alkylating agent, ethyl 3H-naphth[1,2-g]indole-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc.) gave a 74.5% yield of ethyl 3-methyl-3H-naphth[1,2-g]indol-2-carboxylate, mp 136°-138°, (CH2Cl2 /hexane), (C,H,N).

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl 3H-naphth[1,2-g]indole-2-carboxylate | C1=C(NC=2C3=C(C=CC12)C1=CC=CC=C1C=C3)C(=O)OCC | C19H15NO2
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | ethyl 3-methyl-3H-naphth[1,2-g]indol-2-carboxylate | 74.5% yield | CN1C(=CC=2C=CC3=C(C12)C=CC1=CC=CC=C13)C(=O)OCC | C20H17NO2
